US09388174B2
A reaction mixture solution prepared by dissolving 501 mg of ethyl 4-methyl-2-[4-(propan-2-yloxy)-3-(1H-1,2,3-triazol-1-yl)phenyl]-1,3-thiazole-5-carboxylate in 10 mL of a mixed solution of tetrahydrofuran/methanol=1/1 and adding 1.35 mL of 2 M sodium hydroxide aqueous solution was stirred at room temperature for 3 hours. After the addition of 1.35 mL of 2 M hydrochloric acid to the reaction mixture solution under stirring, 8 mL of water was added and extraction was performed using 20 mL of ethyl acetate. The organic phase was concentrated, followed by purifying by a conventional method to obtain 415 mg of 4-methyl-2-[4-(propan-2-yloxy)-3-(1H-1,2,3-triazol-1-yl)phenyl]-1,3-thiazole-5-carboxylic acid.

reactant | ethyl 4-methyl-2-[4-(propan-2-yloxy)-3-(1H-1,2,3-triazol-1-yl)phenyl]-1,3-thiazole-5-carboxylate | 501 mg | CC=1N=C(SC1C(=O)OCC)C1=CC(=C(C=C1)OC(C)C)N1N=NC=C1 | C18H20N4O3S
reactant | sodium hydroxide | 2 M, 1.35 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 M, 1.35 mL | Cl | ClH
reactant | water | 8 mL | O | H2O
solvent | tetrahydrofuran methanol | O1CCCC1.CO
product | 4-methyl-2-[4-(propan-2-yloxy)-3-(1H-1,2,3-triazol-1-yl)phenyl]-1,3-thiazole-5-carboxylic acid | 415 mg | CC=1N=C(SC1C(=O)O)C1=CC(=C(C=C1)OC(C)C)N1N=NC=C1 | C16H16N4O3S
